US04739050
2-(4-Bromobutyl)-3,4-dihydro-2-(3,4-dimethoxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine (compound No. 32)
3,4-Dihydro-2-(3,4-dimethoxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine (5.0 g) and 1,4-dibromobutane (10.3 g) are treated by the similar method as in Example 12 to give 4.8 g (66.9%) of the titled compound.

reactant | 3,4-Dihydro-2-(3,4-dimethoxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine | 5.0 g | COC=1C=C(C=CC1OC)C1SC2=C(N(C1=O)C)C=CC=C2 | C17H17NO3S
reactant | 1,4-dibromobutane | 10.3 g | BrCCCCBr | C4H8Br2
product | 2-(4-Bromobutyl)-3,4-dihydro-2-(3,4-dimethoxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine | 4.8 g, 66.9% | BrCCCCC1(SC2=C(N(C1=O)C)C=CC=C2)C2=CC(=C(C=C2)OC)OC | C21H24BrNO3S
